US07932270B2
To a mixture of 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinic acid (0.60 g, 1.66 mmol) in DMF (3 mL) was added DIEA (0.329 mL, 2.53 mmol), HBTU (0.756 g, 2.00 mmol), then tert-butyl (3-(aminomethyl)pyridin-2-yl)methylcarbamate (0.473 g, 2.11 mmol). The reaction mixture was stirred at room temperature for 1 hr. The crude mixture was purified on RP-HPLC using a mixture of acetonitrile and H2O to give tert-butyl (3-((6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamido)methyl)pyridin-2-yl)methylcarbamate as a pale yellow solid (545 mg, 57%). LRMS (M+H+) m/z 581.3.

reactant | 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinic acid | 1.66 mmol, 0.60 g | C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)O)C=C1)NCCC1=CC(=CC=C1)F | C21H16FN3O2
reactant | DIEA | 2.53 mmol, 0.329 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 2.00 mmol, 0.756 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl (3-(aminomethyl)pyridin-2-yl)methylcarbamate | 2.11 mmol, 0.473 g | NCC=1C(=NC=CC1)CNC(OC(C)(C)C)=O | C12H19N3O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-butyl (3-((6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamido)methyl)pyridin-2-yl)methylcarbamate | 545 mg, 57% | C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)NCC=2C(=NC=CC2)CNC(OC(C)(C)C)=O)C=C1)NCCC1=CC(=CC=C1)F | C33H33FN6O3
